US07592477B2
Step a) Formation of ethyl{{4-[2-(4-hexylphenyl)ethyl]benzyl}[4-(trifluoromethyl)-benzyl]amino}(oxo)acetate
The same procedure as employed in the preparation of Example 1 (step c) but using ethyl{{4-[(4-hexylphenyl)ethynyl]benzyl}[4-(trifluoromethyl)benzyl]amino}(oxo)acetate in EtOAc gave the title compound as a colorless oil (94%). 1H NMR (CDCl3, 300 MHz) δ 7.64 (d, 0.8H, J=8.1 Hz), 7.60 (d, 1.2H, J=8.1 Hz), 7.39 (d, 0.8H, J=8.1 Hz), 7.33 (d, 1.2H, J=8.1 Hz), 7.18 (m, 4H), 7.11 (s, 4H), 4.54 (s, 1.2H), 4.49 (s, 0.8H), 4.42-4.30 (m, 4H), 2.90 (m, 4H), 2.59 (t, 2H, J=7.8 Hz), 1.61 (m, 2H), 1.39-1.30 (m, 9H), 0.89 (t, 3H, J=6.8 Hz). M−(LC/MS(ESI)): 552; M+(LC/MS(ESI)): 554. HPLC (Condition A), Rt: 6.46 min (HPLC purity: 99.2%).

reactant | ethyl{{4-[(4-hexylphenyl)ethynyl]benzyl}[4-(trifluoromethyl)benzyl]amino}(oxo)acetate | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCCCCC)=O | C33H34F3NO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl{{4-[2-(4-hexylphenyl)ethyl]benzyl}[4-(trifluoromethyl)-benzyl]amino}(oxo)acetate | 94% | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)CCC1=CC=C(C=C1)CCCCCC)=O | C33H38F3NO3
